US04994479
To a mixture of 200 mg of ethyl 4-amino-2-[p-(4-phenylbutoxy)benzamido]phenoxyacetate hydrochloride, 107 mg of mono-p-methoxybenzyl malonate and 5 ml of pyridine was added 90 mg of dicyclohexylcarbodiimide. The mixture was stirred at room temperature overnight. The reaction mixture was treated in a manner similar to Example 68. Thereafter the system was applied to silica gel column chromatography and eluted with a toluene-ethyl acetate (4:1) mixture to obtain 110 mg of caramel-like ethyl 4-(p-methoxybenzyloxycarbonyl)acetamido-2-[p-(4-phenylbutoxy)benzamido]phenoxyacetate.

reactant | ethyl 4-amino-2-[p-(4-phenylbutoxy)benzamido]phenoxyacetate hydrochloride | 200 mg | Cl.NC1=CC(=C(OCC(=O)OCC)C=C1)NC(C1=CC=C(C=C1)OCCCCC1=CC=CC=C1)=O
reactant | mono-p-methoxybenzyl malonate | 107 mg | C(CC(=O)[O-])(=O)OCC1=CC=C(C=C1)OC
reactant | dicyclohexylcarbodiimide | 90 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | ethyl 4-(p-methoxybenzyloxycarbonyl)acetamido-2-[p-(4-phenylbutoxy)benzamido]phenoxyacetate | COC1=CC=C(COC(=O)CC(=O)NC2=CC(=C(OCC(=O)OCC)C=C2)NC(C2=CC=C(C=C2)OCCCCC2=CC=CC=C2)=O)C=C1 | C38H40N2O9
